US07012090B1
Step A. 1-(2-Nitropropenyl)-3-methyl-3,7,8,9-tetrahydro-pyrano[3,2-e]indole
A mixture of 3-methyl-3,7,8,9-tetrahydro-pyrano[3,2-e]indole-1-carboxaldehyde (1.02 g, 4.74 mmol) and ammonium acetate (0.30 g, 3.90 mmol) in 12 ml of nitroethane was heated at 100° C. for 3 h, stirred at room temperature for 18 h, mixed with water (50 ml) and extracted with EtOAc (3×50 ml). The combined extracts were dried (MgSO4), filtered and evaporated to dryness. Crystallization of the residue from a mixture of dichloromethane and hexane gave an orange solid (1.10 g, 85%): mp 200-202° C.

reactant | 3-methyl-3,7,8,9-tetrahydro-pyrano[3,2-e]indole-1-carboxaldehyde | 4.74 mmol, 1.02 g | CN1C=C(C=2C3=C(C=CC12)OCCC3)C=O | C13H13NO2
reactant | ammonium acetate | 3.90 mmol, 0.30 g | C(C)(=O)[O-].[NH4+]
reactant | water | 50 ml | O | H2O
reactant | nitroethane | 12 ml | [N+](=O)([O-])CC | C2H5NO2
product | 1-(2-Nitropropenyl)-3-methyl-3,7,8,9-tetrahydro-pyrano[3,2-e]indole | 1.10 g, 85% | [N+](=O)([O-])C(=CC1=CN(C=2C=CC3=C(C12)CCCO3)C)C | C15H16N2O3
